US04533482
An isoprene-methyl methacrylate copolymer is prepared according to Example 17, except that the polymerization temperature is maintained between 25°-28° C. by cooling with ice water. The quantities of the reactants are as follows: 50 grams isoprene, 28 grams methyl methacrylate, 0.16 grams n-dodecyl mercaptan, 0.16 grams cumene hydroperoxide, 150 ml. deionized water, 0.30 grams ferrous sulfate heptahydrate, 0.28 grams tetrasodium pyrophosphate, 0.78 grams sodium lauryl sulfate, and 2.43 grams Triton X-405® (70% aqueous). 12 grams of the copolymer are recovered and the NMR spectrum of the copolymer shows that the copolymer contains 66.7 mole percent isoprene.

reactant | isoprene | 50 grams | C=CC(C)=C | C5H8
reactant | methyl methacrylate | 28 grams | C(C(=C)C)(=O)OC | C5H8O2
reactant | n-dodecyl mercaptan | 0.16 grams | C(CCCCCCCCCCC)S | C12H26S
reactant | cumene hydroperoxide | 0.16 grams | [O-]O.C1(=CC=CC=C1)C(C)C
reactant | tetrasodium pyrophosphate | 0.28 grams | [O-]P([O-])(=O)OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | sodium lauryl sulfate | 0.78 grams | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
solvent | water | O | H2O
product | isoprene methyl methacrylate | C=CC(C)=C.C(C(=C)C)(=O)OC | InChI=1S/C5H8O2.C5H8/c1-4(2)5(6)7-3;1-4-5(2)3/h1H2,2-3H3;4H,1-2H2,3H3
